US06414148B1
4-(Chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (250 mg, 0.78 mmol), (prepared as described for the starting material in Example 2), and triphenylphosphine (512 mg, 1.9 mmol) were added to a stirred solution of 4-morpholino-2-butyn-1-ol (182 mg, 1.1 mmol), (J. Am. Chem. Soc. 1957, 79, 6184), in methylene chloride (4 ml) under argon. Diethyl azodicarboxylate (0.307 ml, 1.9 mmol) was added dropwise and the reaction mixture was stirred for 30 minutes at ambient temperature. Additional 4-morpholino-2-butyn-1-ol (60 mg, 0.39 mmol), triphenylphosphine (102 mg, 0.39 mmol) and followed by diethyl azodicarboxylate (61 μl, 0.39 mmol) were added and the mixture was stirred for a further 15 minutes at ambient temperature. The solvent was removed by evaporation and the residue was purified by column chromatography eluting with methylene chloride/acetonitrile/methanol (60/37/3 followed by 60/35/5 and 55/37/8). The resulting purified oil was dissolved in a mixture of methylene chloride and methanol and ethereal hydrogen chloride (1 ml of a 2.9M solution) was added. The volatiles were removed by evaporation, the solid residue suspended in ether and collected by filtration. The product was recrystallised from 2-propanol/methanol/ether, collected by filtration, washed with 2-propanol and ether and dried to give 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(4-morpholinobut-2-yn-1-yloxy)quinazoline hydrochloride hydrate (75 mg, 18%).

reactant | 4-(Chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 0.78 mmol, 250 mg | ClN(C1=C(C=CC=C1)F)C1=NC=NC2=CC(=C(C=C12)OC)O | C15H11ClFN3O2
reactant | triphenylphosphine | 1.9 mmol, 512 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-morpholino-2-butyn-1-ol | 1.1 mmol, 182 mg | O1CCN(CC1)CC#CCO | C8H13NO2
reactant | Diethyl azodicarboxylate | 1.9 mmol, 0.307 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-morpholino-2-butyn-1-ol | 0.39 mmol, 60 mg | O1CCN(CC1)CC#CCO | C8H13NO2
reactant | triphenylphosphine | 0.39 mmol, 102 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.39 mmol, 61 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(4-morpholinobut-2-yn-1-yloxy)quinazoline hydrochloride hydrate | 75 mg, 18% | O.Cl.ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCC#CCN2CCOCC2)C=C1)F | InChI=1S/C23H22ClFN4O3.ClH.H2O/c1-30-21-13-17-20(14-22(21)32-9-3-2-6-29-7-10-31-11-8-29)26-15-27-23(17)28-19-5-4-16(24)12-18(19)25;;/h4-5,12-15H,6-11H2,1H3,(H,26,27,28);1H;1H2
